US05750531
Step 2: 6-Ethyl-2-(2-methyl-4-fluorophenylamino)-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
After 2-methyl-4-fluoroaniline(0.57 ml, 5.13 mmol) was added to a mixture solution of 6-ethyl-4-(1,2,3,4-tetrahydroisoquinoline-2-yl)-2-chloropyrimidine(0.7 g, 2.56 mmol) and dimethylformamide(5 ml), 0.55 g of the titled compound was obtained in accordance with the same procedure as in Step 2 of Example 1.

reactant | 2-methyl-4-fluoroaniline | 5.13 mmol, 0.57 ml | CC1=C(N)C=CC(=C1)F | C7H8FN
reactant | 6-ethyl-4-(1,2,3,4-tetrahydroisoquinoline-2-yl)-2-chloropyrimidine | 2.56 mmol, 0.7 g | C(C)C1=CC(=NC(=N1)Cl)N1CC2=CC=CC=C2CC1 | C15H16ClN3
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 6-Ethyl-2-(2-methyl-4-fluorophenylamino)-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 0.55 g, Yield: 54% | Cl.C(C)C1=CC(=NC(=N1)NC1=C(C=C(C=C1)F)C)N1CC2=CC=CC=C2CC1 | InChI=1S/C22H23FN4.ClH/c1-3-19-13-21(27-11-10-16-6-4-5-7-17(16)14-27)26-22(24-19)25-20-9-8-18(23)12-15(20)2;/h4-9,12-13H,3,10-11,14H2,1-2H3,(H,24,25,26);1H
